US07495103B2
2-(2-tert-Butyl-5-aminophenoxy)ethanol (C-4) was synthesized following the general scheme above starting from 2-tert-butyl-5-nitrophenol (C-1-a) and 2-bromoethanol. HPLC ret. time 2.08 min, 10-99% CH3CN, 5 min run; ESI-MS 210.3 m/z (MH+).

reactant | 2-tert-butyl-5-nitrophenol | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13NO3
reactant | 2-bromoethanol | BrCCO | C2H5BrO
solvent | CH3CN | CC#N | C2H3N
product | 2-(2-tert-Butyl-5-aminophenoxy)ethanol | C(C)(C)(C)C1=C(OCCO)C=C(C=C1)N | C12H19NO2
